US07157487B2
Methyl indazole-3-carboxylate (3.71 g, 21.1 mmol) was dissolved in DMF (40 ml). To the resulting solution was added sodium hydride (60% in oil, 1.01 g, 25.3 mmol) in portions under stirring at 0° C. The reaction mixture was stirred at the same temperature for 30 minutes. Methyl iodide (1.57 ml, 25.3 mmol) was added to the mixture. The resulting mixture was stirred at the same temperature for 30 minutes. A saturated aqueous solution of ammonium chloride was added and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from n-hexane-ethyl acetate (3:1, v/v) eluate fractions, methyl 2-methylindazole-3-carboxylate (1.62 g, 26%) was obtained as a pale yellow solid.

reactant | Methyl indazole-3-carboxylate | 21.1 mmol, 3.71 g | N1N=C(C2=CC=CC=C12)C(=O)OC | C9H8N2O2
reactant | sodium hydride | 25.3 mmol, 1.01 g | [H-].[Na+]
reactant | Methyl iodide | 25.3 mmol, 1.57 ml | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | methyl 2-methylindazole-3-carboxylate | 1.62 g, 26% | CN1N=C2C=CC=CC2=C1C(=O)OC | C10H10N2O2
